US07238816B2
(10E,13Z)-(4S,7R,8S,9S,16S)-16-Acetyl-4,8-bis-(tert-butyl-dimethyl-silanyloxy)-5,5,7,9,13-pentamethyl-oxacyclohexadeca-10,13-diene-2,6-dione
A solution of 50.0 mg (76.8 μmol) of (3S,6R,7S,8S)-3,7-bis-(tert-butyl-dimethyl-silanyloxy)-4,4,6,8-tetramethyl-5-oxo-dec-9-enoic acid (Z)-(S)-1-acetyl-4-methyl-hepta-3,6-dienyl ester in 200 ml toluene was heated at reflux. 10.8 mg (11.5 μmol) of [RuCl2(PCy3)(ImH2Mes)(3-phenyl-indenylidene)] was added and the resulting yellowish solution stirred at reflux. After 30 min, a 50 ml sample was evaporated to dryness and to remove residual toluene, redissolved in 25 ml ethanol and evaporated to dryness to yield the title compound with 80% purity (HPLC method described in Example 4).

reactant | (3S,6R,7S,8S)-3,7-bis-(tert-butyl-dimethyl-silanyloxy)-4,4,6,8-tetramethyl-5-oxo-dec-9-enoic acid (Z)-(S)-1-acetyl-4-methyl-hepta-3,6-dienyl ester | 76.8 μmol, 50.0 mg | C(C)(=O)[C@H](C\C=C(/CC=C)\C)OC(C[C@@H](C(C([C@@H]([C@H]([C@H](C=C)C)O[Si](C)(C)C(C)(C)C)C)=O)(C)C)O[Si](C)(C)C(C)(C)C)=O | C36H66O6Si2
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (10E,13Z)-(4S,7R,8S,9S,16S)-16-Acetyl-4,8-bis-(tert-butyl-dimethyl-silanyloxy)-5,5,7,9,13-pentamethyl-oxacyclohexadeca-10,13-diene-2,6-dione | C(C)(=O)[C@@H]1C\C=C(/C/C=C/[C@@H]([C@@H]([C@H](C(C([C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)(C)C)=O)C)O[Si](C)(C)C(C)(C)C)C)\C | C34H62O6Si2
